US07312241B2
(4-Methoxy-3-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone was prepared analogously to (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanone using (4-methoxy-3-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol (2.4 g, 6.9 mmol) and pyridinium chlorochromate (2.2 g, 10.3 mmol). The crude product was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 95:5) to afford (4-methoxy-3-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone (1.3 g, 55%) as a white solid: 1H NMR (CDCl3) δ 8.34 (d, J=2 Hz, 1H), 8.10-8.06 (dd, J=2, 8 Hz, 1H), 7.22 (d, J=8 Hz, 1H), 7.01 (s, 2H), 4.07 (s, 3H), 3.95 (s, 3H), 3.87 (s, 3H).

reactant | (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanone | COC1=C(C=C(C=C1)C(=O)C1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C16H15NO6
reactant | (4-methoxy-3-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol | 6.9 mmol, 2.4 g | COC1=C(C=C(C=C1)C(O)C1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C17H19NO7
reactant | pyridinium chlorochromate | 10.3 mmol, 2.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | (4-methoxy-3-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone | 1.3 g, 55% | COC1=C(C=C(C=C1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C17H17NO7
